US07652057B2
To a solution of 5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one (3.35 g) in methylene chloride (80 mL) was added N-bromosuccinimide (2.78 g). The reaction vessel was wrapped in aluminium foil and stirred for 24 hours. The solvent was evaporated in vacuo and the residue was dissolved in EtOAc and water. The phases were separated and the aqueous phase was extracted with more EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and reduced in vacuo to give a crude residue. Flash column chromatography over silica gel using ISCO combiflash chromatography and eluting with EtOAc/heptane afforded the desired 4-bromo-5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one (3.89 g) as a light brown solid. MS (ESI+): 293.1 ([M+H]+).

reactant | 5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 3.35 g | C1(CC1)C1=CC(N(N1C)C1=CC=CC=C1)=O | C13H14N2O
reactant | N-bromosuccinimide | 2.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | aluminium | [Al] | Al
product | 4-bromo-5-cyclopropyl-1-methyl-2-phenyl-1,2-dihydro-pyrazol-3-one | 3.89 g | BrC=1C(N(N(C1C1CC1)C)C1=CC=CC=C1)=O | C13H13BrN2O
